US05536718
N-[5-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H) -ylcarbonyl]-2-pyridinyl]-2-methylpyridine-3-carboxamide Hydrochloride
To a solution of 1.0 g of N-[5-(5H-pyrrolo-[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl) -2-pyridinyl]-2-methylpyridine-3-carboxamide in 50 ml of methanol is added hydrogen chloride gas. The mixture is stirred at room temperature for 30 minutes and the solvent removed under vacuum. The residue is triturated with ether to give 1.0 g of the desired product as a solid: mass spectrum(CCl) ;459 (M+).

reactant | N-[5-(5H-pyrrolo-[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl) -2-pyridinyl]-2-methylpyridine-3-carboxamide | 1.0 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C=1C=CC(=NC1)NC(=O)C=1C(=NC=CC1)C | C25H21N5O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | N-[5-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H) -ylcarbonyl]-2-pyridinyl]-2-methylpyridine-3-carboxamide Hydrochloride | 1.0 g | Cl.C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C=1C=CC(=NC1)NC(=O)C=1C(=NC=CC1)C | InChI=1S/C25H21N5O2.ClH/c1-17-21(8-4-12-26-17)24(31)28-23-11-10-18(14-27-23)25(32)30-16-20-7-5-13-29(20)15-19-6-2-3-9-22(19)30;/h2-14H,15-16H2,1H3,(H,27,28,31);1H
